US07754727B2
A. (3-Methoxy-propyl)-triphenyl-phosphonium bromide
A solution of PPh3 (42.8 g, 163.2 mmol) and 1-bromo-3-methoxypropane (25 g, 163.3 mmol) in toluene (70 mL) is heated at 150° C. in an autoclave for 44 h. After completion of the reaction, the mixture is filtered and the precipitate washed with toluene and dried under high vacuum for 4 h affording the title compound as a white powder Rt (HPLC, Nucleosil C18, 10:90-100:0 CH3CN/H2O+0.1% TFA within 5 min then 100% CH3CN+0.1% TFA): 5.06 min.

reactant | PPh3 | 163.2 mmol, 42.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 1-bromo-3-methoxypropane | 163.3 mmol, 25 g | BrCCCOC | C4H9BrO
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | (3-Methoxy-propyl)-triphenyl-phosphonium bromide | [Br-].COCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H24OP.BrH/c1-23-18-11-19-24(20-12-5-2-6-13-20,21-14-7-3-8-15-21)22-16-9-4-10-17-22;/h2-10,12-17H,11,18-19H2,1H3;1H/q+1;/p-1
